US04957925
(b) 2-n-Butyl-1-{4-[3-(di-n-butylamino) propyloxy]benzenesulphonyl}benzimidazole acid oxalate
To a solution of 0.0017 mol of 2-n-butyl-1-(4-bromopropoxy-benzenesulphonyl) benzimidazole in 15 ml of dimethylsulphoxide was added 0.0034 mol of n-butylamine. The reaction medium was allowed to stand for 17 hours at room-temperature and then poured into 50 ml of water. After extraction, the ethereal phase was dried and evaporated to dryness. The residue so obtained was purified by chromatography on a silica column (eluent : dichloromethane/ethyl acetate) to obtain an oil which 10 was the desired product in the form of the free base (yield : 50%). The oxalate of the base so provided was formed by dissolving the base in question into ethyl ether and adding an ethereal solution of oxalic acid.

reactant | 2-n-butyl-1-(4-bromopropoxy-benzenesulphonyl) benzimidazole | 0.0017 mol | C(CCC)C1=NC2=C(N1S(=O)(=O)C1=CC=C(C=C1)OCCCBr)C=CC=C2 | C20H23BrN2O3S
reactant | n-butylamine | 0.0034 mol | C(CCC)N | C4H11N
reactant | water | 50 ml | O | H2O
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-n-Butyl-1-{4-[3-(di-n-butylamino) propyloxy]benzenesulphonyl}benzimidazole | C(CCC)C1=NC2=C(N1S(=O)(=O)C1=CC=C(C=C1)OCCCN(CCCC)CCCC)C=CC=C2 | C28H41N3O3S
